US05559134
1a) (2E)-3-(2,6-Dimethoxyphenyl)-2-propenoic acid methyl ester
35.6 g of (methoxycarbonylmethylene)-triphenylphosphorane is added to a solution of 8.48 g of 2,6-dimethoxybenzaldehyde in 450 ml of tetrahydrofuran under nitrogen and refluxed for 16 hours. It is poured on 200 ml of ice water, extracted three times with ethyl acetate, the combined organic phases are washed once with saturated sodium chloride solution, dried on sodium sulfate and after filtration, concentrated by evaporation in a vacuum. The thus obtained residue is purified by chromatography on silica gel. With hexane/0-40% ethyl acetate, a solid is obtained, which is recrystallized from hexane/toluene. 10.6 g of the title compound is obtained in this-way as crystalline substance (melting point: 76°-78° C).

reactant | (methoxycarbonylmethylene)-triphenylphosphorane | 35.6 g | COC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
reactant | 2,6-dimethoxybenzaldehyde | 8.48 g | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | (2E)-3-(2,6-Dimethoxyphenyl)-2-propenoic acid methyl ester | 10.6 g | COC(\C=C\C1=C(C=CC=C1OC)OC)=O | C12H14O4
